US08236962B2
1-Bromo-4-(2,2,2-trifluoroethoxy)benzene
To a stirred solution of trifluoroethyl tosylate (1.5 g, 5.8 mmol) in DMF (20 mL) was added K2CO3 (4 g, 29.4 mmol) followed by addition of p-bromo phenol (1.1 g, 6.46 mmol) at RT under inert atmosphere. The reaction mixture was stirred at 120° C. for 6 h. The volatiles were evaporated under reduced pressure; the residue was diluted with water (5 mL) and extracted with ethyl acetate (3×30 mL). The organic layer was washed with water, brine and dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The crude compound was purified by silica gel column chromatography eluting with 5% EtOAc/hexane to afford the desired product (0.8 g, 3.13 mmol, 53.3%) as semi solid. 1H NMR (200 MHz, CDCl3): □ 7.44-7.38 (m, 2H), 6.86-6.80 (m, 2H), 4.38-4.25 (m, 2H).

reactant | trifluoroethyl tosylate | 5.8 mmol, 1.5 g | S(=O)(=O)(OCC(F)(F)F)C1=CC=C(C)C=C1 | C9H9F3O3S
reactant | K2CO3 | 29.4 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | p-bromo phenol | 6.46 mmol, 1.1 g | C1=CC(=CC=C1O)Br | C6H5BrO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-4-(2,2,2-trifluoroethoxy)benzene | 3.13 mmol, 0.8 g, 53.3% | BrC1=CC=C(C=C1)OCC(F)(F)F | C8H6BrF3O
